US20010056109A1
(b) 3-(4-Methoxyphenyl)-2-phenylpropanoic acid
Palladium on activated carbon (10% wt., 2.77 g) was added to a solution of 3-(4-methoxyphenyl)-2-phenylacrylic acid (27.7 g, 0.11 mol) in acetic acid (1000 ml). The mixture was hydrogenated at ambient temperature. The mixture was filtered through Celite, and the solvent was evaporated. The product was recrystallized from a small amount of ethyl acetate. Melting point 220-221° C.

reactant | 3-(4-methoxyphenyl)-2-phenylacrylic acid | 0.11 mol, 27.7 g | COC1=CC=C(C=C1)C=C(C(=O)O)C1=CC=CC=C1 | C16H14O3
catalyst | Palladium on activated carbon | 2.77 g | [Pd] | Pd
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Methoxyphenyl)-2-phenylpropanoic acid | COC1=CC=C(C=C1)CC(C(=O)O)C1=CC=CC=C1 | C16H16O3
